US05017569
To a suspension of the crude 2,3-diacetoxy-6-naphthalenesulphonic acid (973 mg) in CCl4 (3 ml) was added phosphorus pentachloride (750 mg). The mixture was heated at 80° C. for 20 minutes, cooled, and water added cautiously. The CCl4 was separated from the aqueous layer and the latter was extracted with CH2Cl2. The organic extracts were combined, washed with water and dried over magnesium sulphate. Evaporation of the solvent yielded 2,3-diacetoxy-6-naphthalenesulphonyl chloride (160 mg, yield: 15%). NMR in CDCl3 : 2.37(s,6H); 7.82(s,1H); 7.87(s,1H); 7.99(s,1H); 8.01(s,1H); 8.54(br.s,1H).

reactant | 2,3-diacetoxy-6-naphthalenesulphonic acid | 973 mg | C(C)(=O)OC1=CC2=CC=C(C=C2C=C1OC(C)=O)S(=O)(=O)O | C14H12O7S
reactant | phosphorus pentachloride | 750 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | water | O | H2O
solvent | CCl4 | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,3-diacetoxy-6-naphthalenesulphonyl chloride | 160 mg, yield: 15% | C(C)(=O)OC1=CC2=CC=C(C=C2C=C1OC(C)=O)S(=O)(=O)Cl | C14H11ClO6S
